### PR TITLE
use csqrt_differentiableAt to shorten proof of eta_logDeriv_eql

### PR DESCRIPTION
**Pull request by dwrensha**
Replaces 11 lines of proof with a single invocation of [`csqrt_differentiableAt`](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/ab57a2e48e713a784967241abaf89952ba5bdc8f/SpherePacking/ModularForms/csqrt.lean#L41).

### CODE REVIEW

File: SpherePacking/ModularForms/eta.lean [hunk 1]
```diff
@@ -349,17 +349,7 @@ lemma eta_logDeriv_eql (z : ℍ) : (logDeriv (η ∘ (fun z : ℂ => -1/z))) z =
...
-    apply DifferentiableAt.comp
-    · simp
-    apply DifferentiableAt.const_mul
-    apply Complex.differentiableAt_log
-    rw [mem_slitPlane_iff]
-    right
-    have hz := z.2
-    simp only at hz
-    exact Ne.symm (ne_of_lt hz)
+  · exact csqrt_differentiableAt z
```
Comment (dwrensha) [inline SpherePacking/ModularForms/eta.lean:352]: The goal here is
```
case hdf
z : ℍ
h0 : logDeriv (η ∘ fun z ↦ -1 / z) ↑z = (↑z ^ 2)⁻¹ * logDeriv η ↑⟨-1 / ↑z, ⋯⟩
⊢ DifferentiableAt ℂ csqrt ↑z
```
